US07572801B2
7-Fluoro-2-[4-(4-fluoro-phenyl)-butyl]-3H-pyrido[2,3-d]pyrimidin-4-one
The title compound was prepared in analogy to example 85 from 2,6-difluoropyridine-3-carboxylic acid and 5-(4-fluoro-phenyl)-pentanamidine hydrochloride. White solid. MS: m/e=316.1 [M+H+].

reactant | 2,6-difluoropyridine-3-carboxylic acid | FC1=NC(=CC=C1C(=O)O)F | C6H3F2NO2
reactant | 5-(4-fluoro-phenyl)-pentanamidine hydrochloride | Cl.FC1=CC=C(C=C1)CCCCC(=N)N
product | 7-Fluoro-2-[4-(4-fluoro-phenyl)-butyl]-3H-pyrido[2,3-d]pyrimidin-4-one | FC=1C=CC2=C(N=C(NC2=O)CCCCC2=CC=C(C=C2)F)N1 | C17H15F2N3O
